US05665719
Acetic acid (2.28 mL, 2.4 g, 40.4 mmol) was added slowly to sodium borohydride (0.76 g, 20.2 mmol) in THF (20 mL) stirred in an ice bath. The mixture was stirred in the cold until hydrogen evolution had ceased. 2-Aminobenzophenone (2.0 g, 10.1 mmol) was added as the solid. The mixtuire was stirred under nitrogen at ambient temperature for 20 hours, after which time, TLC assay (silica gel, 1:9 EtOAc:hexane) indicated reaction was complete. The reaction mixture was treated with water (40 mL), then neutralized with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layers were combined, dired over sodium sulfate, filtered, and evaporated to dryness in vacuo to give 2-aminobenzhydrol.

reactant | Acetic acid | 40.4 mmol, 2.28 mL, 2.4 g | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 20.2 mmol, 0.76 g | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-Aminobenzophenone | 10.1 mmol, 2.0 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-aminobenzhydrol | NC1=C(C(C2=CC=CC=C2)O)C=CC=C1 | C13H13NO
